US05721234
5-Acetamido-2-carboxyethylindane
A mixture of 2-carboxyethyl-5-nitroindane (34 g, 0.15 mol), Raney nickel (5 g), acetic anhydride (25 mL) and acetic acid (225 mL) was shaken on a Parr hydrogenation apparatus under a hydrogen atmosphere (50 psi) for 30 h. After removing the catalyst, the filtrate was evaporated to give a dark syrup. The residue was purified by column chromatography (3:2 hexane:EtOAc).

reactant | 2-carboxyethyl-5-nitroindane | 0.15 mol, 34 g | C(=O)(O)CCC1CCC2=CC(=CC=C12)[N+](=O)[O-] | C12H13NO4
reactant | acetic anhydride | 25 mL | C(C)(=O)OC(C)=O | C4H6O3
catalyst | Raney nickel | 5 g | [Ni] | Ni
solvent | acetic acid | 225 mL | C(C)(=O)O | C2H4O2
product | 5-Acetamido-2-carboxyethylindane | C(C)(=O)NC=1C=C2CCC(C2=CC1)CCC(=O)O | C14H17NO3
